US04705609
In the present invention, benzene is oxidized in acetonitrile to form a radical cation. The isocyanate anion (solubilized by the 18-crown-6 polyether) then attacks the activated ring to give a phenyl isocyanate radical which then loses a proton to give phenyl isocyanate. The 18-crown-6 acts as a solid to liquid phase transfer catalyst bringing the insoluble KOCN into the acetonitrile solution. A schematic is shown below.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | isocyanate | [N-]=C=O
solvent | acetonitrile | C(C)#N | C2H3N
product | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
